US07345034B2
7A. Methyl-(2,3,11a-trimethyl-2,3,3a,4,5,5a,5b,6,8,9,10,11,11a,11b,12,13-hexadecahydro-1H-2-aza-pentaleno[1,6a-a]phenanthren-9-yl)carbamic acid 2,2,2-trichloro-ethyl ester
2,2,2-Trichloroethylchloroformate (5.94 g, 28 mmol) was added dropwise to a stirred solution of conessine (10 g, 28 mmol) in 200 mL benzene. Very thick gel resulted. The mixture was heated at reflux for 4 h (oil bath temperature 90° C.), then cooled down to room temperature, quenched with water, the pH adjusted with 25 mL saturated sodium bicarbonate, and extracted with dichloromethane 3×. Organic layers were dried over Na2SO4, filtered, and evaporated to give crude product, which was purified by flash chromatography to give desired product (8.8 g, 61% yield).

reactant | 2,2,2-Trichloroethylchloroformate | 28 mmol, 5.94 g | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
reactant | conessine | 28 mmol, 10 g | C[C@H]1[C@H]2CC[C@@H]3[C@@]2(CC[C@H]4[C@H]3CC=C5[C@@]4(CC[C@@H](C5)N(C)C)C)CN1C | C24H40N2
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
product | Methyl-(2,3,11a-trimethyl-2,3,3a,4,5,5a,5b,6,8,9,10,11,11a,11b,12,13-hexadecahydro-1H-2-aza-pentaleno[1,6a-a]phenanthren-9-yl)carbamic acid 2,2,2-trichloro-ethyl ester | 8.8 g, 61% yield | ClC(COC(N(C1CCC2(C3CCC45C(C3CC=C2C1)CCC5C(N(C4)C)C)C)C)=O)(Cl)Cl | C26H39Cl3N2O2
